US04284631
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-(2-ethoxyethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 2.2 g.), conc hydrochloric acid (2 ml.) and methanol (30 ml.) was stirred at room temperature for 1.6 hours. After concentrating the resultant solution in vacuo, water was added to the residue, adjusted to pH 6.5 with sodium bicarbonate and washed with ethyl acetate. The aqueous solution was treated with activated charcoal and adjusted to pH 3.0 with conc. hydrochloric acid. The precipitates were collected by filtration, washed with water and dried over anhydrous pentoxide under reduced pressure to give 7-[2-(2-aminothiazol-4-yl)-2-(2-ethoxyethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.87 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-ethoxyethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 2.2 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCOCC | C17H19N5O7S2
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-ethoxyethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 0.87 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCOCC | C16H19N5O6S2
